US06825191B2
Step 1: Synthesis of ethyl (4-methoxy-2-nitrobenzyl)aminoacetate
5.0 g (29 mmol) of 4-methoxy-1-methyl-2-nitrobenzene was added to a mixture of 50 ml of benzene, 50 ml of perbenzoic acid and 8 g (45 mmol) of N-bromosuccinimide, and they were stirred at 80° C. for one day. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 50 ml of ethanol. 8.4 g (60 mmol) of glycine ethyl ester hydrochloride and 5.0 g (60 mmol) of sodium hydrogencarbonate were added to the obtained solution, and they were stirred at 70° C. overnight. The solvent was evaporated. After the extraction with ethyl acetate, the extract was washed with 1 N hydrochloric acid. The obtained aqueous layer was made basic with 1 N sodium hydroxide. After the extraction with ethyl acetate, the obtained organic layer was washed with saturated aqueous sodium chloride solution and then dried. The solvent was evaporated to obtain the title compound.

reactant | 4-methoxy-1-methyl-2-nitrobenzene | 29 mmol, 5.0 g | COC1=CC(=C(C=C1)C)[N+](=O)[O-] | C8H9NO3
reactant | perbenzoic acid | 50 ml | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | N-bromosuccinimide | 45 mmol, 8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | glycine ethyl ester hydrochloride | 60 mmol, 8.4 g | Cl.C(C)OC(CN)=O
reactant | sodium hydrogencarbonate | 60 mmol, 5.0 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | ethyl (4-methoxy-2-nitrobenzyl)aminoacetate | COC1=CC(=C(CNCC(=O)OCC)C=C1)[N+](=O)[O-] | C12H16N2O5
